US04083983
By reaction of 2-[2-aminoethylthiomethyl]-3-methoxypyridine with methyl isothiocyanate there may be produced N-methyl-N'-[2-((3-methoxy-2-pyridyl)methylthio)ethyl]thiourea.

reactant | 2-[2-aminoethylthiomethyl]-3-methoxypyridine | NCCSCC1=NC=CC=C1OC | C9H14N2OS
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | N-methyl-N'-[2-((3-methoxy-2-pyridyl)methylthio)ethyl]thiourea | CNC(=S)NCCSCC1=NC=CC=C1OC | C11H17N3OS2
